US04623376
Preparation of 5-methyl-3(α,α,α-trifluoro-m-tolyl)pyridazine
To 3-chloro-4-methyl-6-(α,α,α-trifluoro-m-tolyl)pyridazine(7 g) is added 10% palladium on carbon catalyst (0.7 g) and 300 mL of MeOH containing 30 mL of concentrated NH4OH. The mixture is shaken with H2 until the uptake of H2 ceases. The mixture is filtered to remove catalyst and concentrated in vacuo and then diluted with CH2Cl2 /H2O. The organic phase is washed with water and dried over MgSO4 to yield a solid which, on recrystallization from Et2O, gives 4.8 g (78%) of an off-white solid with a melting point of 114°-116° C.

reactant | 3-chloro-4-methyl-6-(α,α,α-trifluoro-m-tolyl)pyridazine | 7 g | ClC=1N=NC(=CC1C)C=1C=C(C=CC1)C(F)(F)F | C12H8ClF3N2
reactant | NH4OH | [NH4+].[OH-]
catalyst | palladium on carbon | 0.7 g | [Pd] | Pd
solvent | MeOH | 300 mL | CO | CH4O
product | 5-methyl-3(α,α,α-trifluoro-m-tolyl)pyridazine | 4.8 g, 78% | CC=1C=C(N=NC1)C=1C=C(C=CC1)C(F)(F)F | C12H9F3N2
